US04519944
I-a. 8-Isopropyl-1-oxaspiro[4.5]decan-2-one
To 1247 g of 4-isopropylcyclohexanol at 143°-150° C. was added in 6 hrs a mixture of 71.1 g (1.0 m) acrylic acid, 142 g (1.0 m) 4-isopropylcyclohexanol and 14.6 g (0.1 m) di-tert-butylperoxide. After an additional hour at 143°-150° the mixture was distilled at reduced pressure yielding 142.1 g. Bp:125°-141° C. (1.0 mm Hg). Odor:woody, milky-lactone, dry. Analysis:99% pure by VPC: 44% cis (odor:nonalactone, celery-lactone) 56% trans (odor:strong woody, cinnamic, urine)

reactant | 4-isopropylcyclohexanol | 1247 g | C(C)(C)C1CCC(CC1)O | C9H18O
reactant | acrylic acid | 71.1 g | C(C=C)(=O)O | C3H4O2
reactant | 4-isopropylcyclohexanol | 142 g | C(C)(C)C1CCC(CC1)O | C9H18O
reactant | di-tert-butylperoxide | 14.6 g | C(C)(C)(C)OOC(C)(C)C | C8H18O2
product | 8-Isopropyl-1-oxaspiro[4.5]decan-2-one | C(C)(C)C1CCC2(CCC(O2)=O)CC1 | C12H20O2
